US06320051B1
b) 2-(3,4-Dichlorophenyl)azetidine
To lithium aluminium hydride (0.63 g, 16.5 mmol) in diethyl ether (12 ml) was added 4-(3,4-dichlorophenyl)azetidin-2-one (1 g, 4.6 mmol). The mixture was refluxed under argon for 4 h then cooled and 20% aqueous ammonium chloride solution (3 ml) added. Diethyl ether (30 ml) was added and the mixture filtered, and the insoluble material washed with more diethyl ether (20 ml). The combined filtrates were dried (Na2SO4) and evaporated under reduced pressure to give a yellow oil, (0.76 g). A portion of this material (0.55 g) was purified by column chromatography on silica gel eluting with 2-10% (9:1 MeOH/0.880 NH3) in dichloromethane gave the title compound, (0.44 g, 65%). δH (CDCl3) 2.0 (1H, bs), 2.3 (1H, m), 2.55 (1H, m), 3.34 (1h, m), 3.75 (1H, m), 4.9(1H, t), 7.2 (1H, dd), 7.4(1H, d), 7.5 (1H, d).

reactant | lithium aluminium hydride | 16.5 mmol, 0.63 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(3,4-dichlorophenyl)azetidin-2-one | 4.6 mmol, 1 g | ClC=1C=C(C=CC1Cl)C1CC(N1)=O | C9H7Cl2NO
reactant | ammonium chloride | 3 ml | [Cl-].[NH4+]
solvent | diethyl ether | 12 ml | C(C)OCC | C4H10O
solvent | Diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 2-(3,4-Dichlorophenyl)azetidine | 0.44 g, 65% | ClC=1C=C(C=CC1Cl)C1NCC1 | C9H9Cl2N
